US04092311
A 10.0 g. portion of 6-(p-chlorophenyl)-3-chloropyridazine and 6.1 g. of methyl hydrazine in 125 ml. of butanol is mixed and heated at reflux overnight. The reaction mixture is cooled, filtered, the precipitate is washed with butanol and water and dried. Recrystallization from ethanol gives 6-(p-chlorophenyl)-3-(1-methylhydrazino)pyridazine.

reactant | 6-(p-chlorophenyl)-3-chloropyridazine | ClC1=CC=C(C=C1)C1=CC=C(N=N1)Cl | C10H6Cl2N2
reactant | methyl hydrazine | CNN | CH6N2
solvent | butanol | C(CCC)O | C4H10O
product | 6-(p-chlorophenyl)-3-(1-methylhydrazino)pyridazine | ClC1=CC=C(C=C1)C1=CC=C(N=N1)N(N)C | C11H11ClN4
